US04053469
A solution of 3-methoxyiminomethyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylic acid (1 g) in water (100 ml) is neutralized with aqueous 2N-sodium hydroxide to pH 6.5. The solution is lyophylized to give a solid mass of sodium 3-methoxyiminomethyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylate (1.1 g) which is readily soluble in water.

reactant | 3-methoxyiminomethyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylic acid | 1 g | CON=CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C15H15N3O5S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | sodium 3-methoxyiminomethyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylate | 1.1 g | CON=CC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(CC=2SC=CC2)=O)=O.[Na+] | InChI=1S/C15H15N3O5S2.Na/c1-23-16-6-8-7-25-14-11(13(20)18(14)12(8)15(21)22)17-10(19)5-9-3-2-4-24-9;/h2-4,6,11,14H,5,7H2,1H3,(H,17,19)(H,21,22);/q;+1/p-1/t11-,14-;/m1./s1
